US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-4-(2-(morpholin-4-yl)ethoxy)benzamido)-4-phenylbenzoate (0.059 g) in methanol (2.0 mL) and ethyl acetate (2.0 mL), 10% palladium-carbon (0.012 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 3 hours. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue, and the solid substance was collected by filtration. Trifluoroacetic acid (4.0 mL) was added to the obtained solid substance, followed by stirring at room temperature for 3 hours. Toluene was added to the reaction mixture, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue, and the solid substance was collected by filtration. Ethanol (4.0 mL) was added to the obtained solid substance. After adjusting the pH to 7.7 with a 1 mol/L aqueous solution of sodium hydroxide, the solid substance was collected by filtration to obtain 0.011 g of 2-(2-hydroxy-4-(2-(morpholin-4-yl)ethoxy)benzamido)-4-phenylbenzoic acid as a white solid.

reactant | tert-butyl 2-(2-(benzyloxy)-4-(2-(morpholin-4-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.059 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)OCCN1CCOCC1 | C37H40N2O6
solvent | methanol | 2.0 mL | CO | CH4O
solvent | ethyl acetate | 2.0 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 0.012 g | [C].[Pd]
product | 2-(2-hydroxy-4-(2-(morpholin-4-yl)ethoxy)benzamido)-4-phenylbenzoic acid | 0.011 g | OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)OCCN1CCOCC1 | C26H26N2O6
